US06054588
10 g (44.8 mmol) of 2,2',4'-trichloroacetophenone were added portionwise at room temperature to a solution of 9.3 g (134 mmol) of triazole in 50 ml of dimethylformamide and stirred at 80° C. for 16 hours. The reaction mixture was added to 100 ml of 2N sodium hydroxide solution and extracted three times with 100 ml of ethyl acetate each time. The combined organic phases were dried over magnesium sulphate and concentrated in a vacuum. The crude product was purified by column chromatography on silica gel (ethyl acetate/methanol 100:5). 2.8 g (25%) of 1-(2,4-dichlorophenyl)-2-[1,2,4]triazol-1-yl-ethanone were obtained as a yellow-brown solid.

reactant | 2,2',4'-trichloroacetophenone | 44.8 mmol, 10 g | ClCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5Cl3O
reactant | triazole | 134 mmol, 9.3 g | N1N=NC=C1 | C2H3N3
reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(2,4-dichlorophenyl)-2-[1,2,4]triazol-1-yl-ethanone | 2.8 g, 25% | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)=O | C10H7Cl2N3O
